US04064236
To a solution of N-tert-butoxycarbonylalanine (0.06 mole) and N-methylmorpholine (0.06 mole) in dry tetrahydrofuran (100 ml) at -20° to -25° is added isobutyl chloroformate (0.06 mole) with stirring. After 10-15 minutes, a solution of leucine benzyl ester (0.06 mole) and N-methylmorpholine (6.8 ml) in methylene chloride-tetrahydrofuran (1:1, 100 ml) is added over a period of 1/2 hour. The mixture is allowed to warm to room temperature and stirred at room temperature overnight. The resulting mixture is concentrated in vacuo and the residue extracted between chloroform and dilute hydrochloric acid. The chloroform layer is separated, washed with water, dried over sodium sulfate and concentrated to give the crude N-tert-butoxycarbonylalanylleucine benzyl ester to be used as in the next step.

reactant | N-tert-butoxycarbonylalanine | 0.06 mole | C(C)(C)(C)OC(=O)N[C@@H](C)C(=O)O | C8H15NO4
reactant | N-methylmorpholine | 0.06 mole | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 0.06 mole | ClC(=O)OCC(C)C | C5H9ClO2
reactant | leucine benzyl ester | 0.06 mole | C(C1=CC=CC=C1)OC([C@@H](N)CC(C)C)=O | C13H19NO2
reactant | N-methylmorpholine | 6.8 ml | CN1CCOCC1 | C5H11NO
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | methylene chloride tetrahydrofuran | 100 ml | C(Cl)Cl.O1CCCC1
product | N-tert-butoxycarbonylalanylleucine benzyl ester | C(C1=CC=CC=C1)OC([C@@H](NC([C@@H](NC(=O)OC(C)(C)C)C)=O)CC(C)C)=O | C21H32N2O5
